US09169272B2
(5-amino-1,3-phenylene)dimethanol (2.5 g, 16.32 mmol) and 2-(methyldithio)isobutyraldehyde (2.347 ml, 16.32 mmol) were stirred at ambient temperature in absolute ethanol (82 ml) until completely dissolved (3 hours). The mixture was cooled to 0° C. in an ice bath and sodium borohydride (0.741 g, 19.59 mmol) was added. The reaction was stirred for 1 hour at 0° C., and was then quenched slowly with cold 5% HCl solution. The mixture was diluted with dichloromethane and the pH was adjusted to pH=8 with saturated sodium bicarbonate solution then extracted with dichloromethane and then washed with brine. The organic extracts were dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. Purification by silica gel chromatography (MeOH/DCM) yielded (5-(2-methyl-2-(methyldisulfanyl)propylamino)-1,3-phenylene)dimethanol (3 g, 65%) as a white solid. 1H NMR (400 Hz, CDCl3): δ6.62 (s, 1H), 6.54 (s, 2H), 4.53 (s, 4H), 3.13 (s, 2H), 2.30 (s, 3H), 1.32 (s, 6H). See FIG. 47.

reactant | (5-amino-1,3-phenylene)dimethanol | 16.32 mmol, 2.5 g | NC=1C=C(C=C(C1)CO)CO | C8H11NO2
reactant | 2-(methyldithio)isobutyraldehyde | 16.32 mmol, 2.347 ml | CSSC(C=O)(C)C | C5H10OS2
reactant | sodium borohydride | 19.59 mmol, 0.741 g | [BH4-].[Na+]
solvent | ethanol | 82 ml | C(C)O | C2H6O
product | (5-(2-methyl-2-(methyldisulfanyl)propylamino)-1,3-phenylene)dimethanol | 3 g, 65% | CC(CNC=1C=C(C=C(C1)CO)CO)(C)SSC | C13H21NO2S2
